US06762205B1
43 mg of 4′-aminobiphenyl-4-ol was dissolved in 0.7 ml of N,N-dimethylacetamide, and 107 mg of sulfamoyl chloride was added thereto under cooling with ice, followed by stirring at room temperature for 2.4 hours. After the reaction mixture was poured into a saturated aqueous solution of sodium chloride, the product was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the resulting crude product was purified by TLC (using a 17:10 mixture of chloroform and tetrahydrofuran as the developing solvent) to obtain 42 mg of 4′-(sulfamoylamino)biphenyl-4-yl sulfamate.

reactant | 4′-aminobiphenyl-4-ol | 43 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | sulfamoyl chloride | 107 mg | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylacetamide | 0.7 ml | CN(C(C)=O)C | C4H9NO
product | 4′-(sulfamoylamino)biphenyl-4-yl sulfamate | 42 mg | S(N)(OC1=CC=C(C=C1)C1=CC=C(C=C1)NS(N)(=O)=O)(=O)=O | C12H13N3O5S2
